US05210209
(d) Preparation of 2-Methylpyrazolo[1,5-a]benzimidazole (6).
4-Acetyl-3-acetylthio-2-methylpyrazolo[1,5-a]benzimidazole (2.0 g, 6.97 mmole) was added to a mixture of concentrated hydrochloric acid (5 ml) and ethanol (30 ml) and refluxed for 5 hr. A yellow solid precipitated during the heating period and was filtered off after cooling, 0.9 g. This was a mixture of several components, none of them being the required product, and was discarded. The ethanolic solution was poured into a solution of sodium bicarbonate (excess) in water (300 ml) and the white solid filtered off, washed and dried, 0.7 g, 61%, mp. 250°-252° C. IR and TLC (+ Dox spray test) comparison with authentic (6) showed the samples to be identical.

reactant | 4-Acetyl-3-acetylthio-2-methylpyrazolo[1,5-a]benzimidazole | 6.97 mmole, 2.0 g | C(C)(=O)N1C=2N(C3=C1C=CC=C3)N=C(C2SC(C)=O)C | C14H13N3O2S
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Methylpyrazolo[1,5-a]benzimidazole | CC1=NN2C(NC3=C2C=CC=C3)=C1 | C10H9N3
